US04703054
(1) 1-[2-(Benzyloxycarbonylamino)acetyl]-2-isopropyl-4-imidazolidinone
Into an ice-cold solution of N-(benzyloxycarbonyl) glycine (26 g) and 2-isopropyl-4-imidazolidinone (16 g) in THF (260 ml), a solution of DCC (25.4 g) in THF (100 ml) was added dropwise. After stirring for 2 hours at 20° C., the precipitate was filtered off and the filtrate was evaporated to dryness. Crystallization of the residue from 2-propanol yielded 33.5 g of the title compound, m.p. 137°-139° C.

reactant | N-(benzyloxycarbonyl) glycine | 26 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | 2-isopropyl-4-imidazolidinone | 16 g | C(C)(C)C1NCC(N1)=O | C6H12N2O
reactant | DCC | 25.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 260 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-[2-(Benzyloxycarbonylamino)acetyl]-2-isopropyl-4-imidazolidinone | 33.5 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1C(NC(C1)=O)C(C)C | C16H21N3O4
